US07179801B2
A suspension of 2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)ethylamine (155 mg) in ethyl formate (3 ml) was refluxed for 4.5 hours. After evaporation of the solvent in vacuo, the residue was triturated with ethyl acetate and dried in vacuo to give 2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)ethylformamide (165 mg) as a solid.

reactant | 2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)ethylamine | 155 mg | N1CCN2N=CC(=C21)CCN | C7H12N4
reactant | ethyl formate | 3 ml | C(=O)OCC | C3H6O2
product | 2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)ethylformamide | 165 mg | N1CCN2N=CC(=C21)CCNC=O | C8H12N4O
